US09371262B2
(E)-1-methoxy-10-methyl-12-pentylazacyclododec-9-en-2-one
An argon flushed three-necked flask which was cooled by an ice-water bath was charged with 2-(prop-1-en-2-yl)cyclooctanone (1.50 g, 9.02 mmol), hexanal O-methyl oxime (1.56 g, 13.53 mmol), and SnCl4 (2.35 g, 9.02 mmol) in 1,2-dichloroethane (90 ml). The mixture was stirred for 2 days at room temperature. The completion of reaction was checked by GC analysis of reaction aliquots quenched with a solution of saturated NaHCO3 in water. The reaction mixture was quenched with sat. aqueous NaHCO3 solution (50 mL). The organic phase was separated and the aqueous layer was extracted with MTBE three times. The combined organic layers were washed with brine (30 mL), dried (MgSO4) and evaporated in vacuo. The crude product was purified by distillation to give the title product as a yellow oily liquid (2.38 g, 89%). E isomers>98%.

reactant | 2-(prop-1-en-2-yl)cyclooctanone | 9.02 mmol, 1.50 g | C=C(C)C1C(CCCCCC1)=O | C11H18O
reactant | hexanal O-methyl oxime | 13.53 mmol, 1.56 g | CON=CCCCCC | C7H15NO
reactant | SnCl4 | 9.02 mmol, 2.35 g | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 90 ml | ClCCCl | C2H4Cl2
product | (E)-1-methoxy-10-methyl-12-pentylazacyclododec-9-en-2-one | 2.38 g, 89% | CON1C(CCCCCC\C=C(\CC1CCCCC)/C)=O | C18H33NO2
